Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Prolia / Reclast
 
Attending: ___
 
Chief Complaint:
R sided invasive ductal cancer
 
Major Surgical or Invasive Procedure:
Right sided lumpectomy with sentinel lymph node biopsy 

 
History of Present Illness:
HOPI: Ms. ___ is a ___ y/o female who presented for screening
mammogram on ___. Additional imaging was recommended for
right breast grouped calcifications in the upper outer breast.
Diagnostic ___ showed a 4mm group of coarse heterogeneous,
linearly arranged micorcalcifications in the right upper outer
posterior breast and stereotactic core biopsy was recommended.
Pathology revealed right breast IDC, gr 1, ER + (>95% strong), 
PR
+ (50%, Medium), HER2 negative (0 or 1+) on IHC 
 
Past Medical History:
osteoporosis, depression, anxiety, arthritis, mitral valve
prolapse--asymptomatic; dx at age ___ followed by Cardiologist 
at
___, herpes simplex, Left rib fx from husband falling on her,
broken toes, cervical disc/paresthesias, lumbar back pain,
Migraine HA's, Sjogren's, corneal neuropathy, arthritis,
bilateral breast cysts
 
Social History:
___
Family History:
Family history is significant for mother with renal
cancer at age ___ and father wit colon cancer. She denies any
family history of breast or ovarian cancer.  She is not of
___ descent. 
 
Physical Exam:
Physical Exam:
VS: Refer to flowsheet
GEN: NAD, pleasant, conversant 
HEENT: NCAT, EOMI, sclera anicteric
CV: RRR
PULM: no increased work of breathing, comfortable on RA
BREAST: Right breast with upper outer quadrant swelling,
ecchymosis decreased, short of previously marked line, area of
firmness in upper outer quadrant that is decreased in size from
last night.
ABD: soft, non-tender, non-distended, no masses or hernia
EXT: Warm, well-perfused, no edema, no tenderness 
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect
WOUND: See above
 
Pertinent Results:
See OMR for all lab and imaging results.
 
Brief Hospital Course:
___ female with right breast cancer status post right 
breast lumpectomy with sentinel node biopsy complicated by 
hematoma, doing well.Please see operative note for more details. 
Immediately postoperatively, she was doing well, however, she 
then felt a "pop" and noticed increasing right breast swelling 
and experienced increasing pain. Dressing was taken down and 
right breast was clearly enlarged compared to left breast. The 
area around the breast incision was surrounded by purple 
ecchymosis, with underlying area of firmness throughout the 
whole outer breast. Extent of ecchymosis was marked at 11 pm. 
Patient was admitted for observation and compression dressing 
was applied. 4 hours later (3am), compression wrap was taken 
down and the extent of swelling had decreased and breast was 
notably softer compared to earlier, with majority of remaining 
firmness in upper outer quadrant. Ecchymosis was stable. Patient 
reported that her pain was improved and was now ___ (compared 
to ___ earlier). Compression dressing was reapplied after 
physical exam. On ___ AM (POD1), patient felt that the pain 
was improved. On breast examination, ecchymoses was stable, with 
decreased firmness and swelling, although the right breast was 
still larger than left breast. She was given clear liquid diet 
for breakfast and advanced as tolerated. However, she continued 
to feel nauseous with one episode of emesis so stayed one 
additional night for continued observation. At discharge she was 
feeling better and tolerating a regular diet. On ___, she 
was discharged with follow up with Breast Surgery/Dr. ___ on 
___. 
 
Medications on Admission:
noritriptyline, lorazepam, fioricet
 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: . 
2.  Gabapentin 600 mg PO QHS  
3.  LORazepam 0.5 mg IV Q6H:PRN anxiety  
4.  Nortriptyline 100 mg PO QHS  
5.  Omeprazole 20 mg PO DAILY  
6.  Ondansetron 4 mg PO DAILY:PRN Nausea/Vomiting - First Line  
7.  ValACYclovir 500 mg PO PRN flares  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right breast invasive ductal cancer, status post lumpectomy and 
sentinel lymph node biopsy with post operative hematoma

**Please follow up with your PCP regarding any potential 
underlying bleeding disorder. Given your history of 
bleeding/brusing post surgery/biopsy, and given your family 
history of easy bruising, this may need to be investigated by 
your PCP**

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You underwent a right sided lumpectomy with sentinel lymph node 
biopsy. Your post operative course was complicated by a hematoma 
formation, which has now improved. You are ready for discharge. 

Personal Care:  
For your breast incision, you will have steri strips, on top of 
which you have gauze, tegaderm, abdominal pad, bra, and then ACE 
wrap bandage. You will be discharged with this dressing, and 
will see Dr. ___ in clinic on ___, at which time, if 
everything is stable/improved, further instructions will be 
given regarding care of your incision. 

Activity:  
1. You may resume your regular diet.  
2. Walk several times a day.  
3. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity for 6 weeks following surgery. 
Medications:  
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered .  
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. Please note that 
Percocet and Vicodin have Tylenol as an active ingredient so do 
not take these meds with additional Tylenol.  
3. Take prescription pain medications for pain not relieved by 
Tylenol.  
4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish.  
5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.  

Call the office IMMEDIATELY if you have any of the following:  
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
2. A large amount of bleeding from the incision(s) or drain(s).  

3. Fever greater than 101.5 oF  
4. Severe pain NOT relieved by your medication.  
  
Return to the ER if:  
* If you are vomiting and cannot keep in fluids or your 
medications.  
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.  
* Any serious change in your symptoms, or any new symptoms that 
concern you.  

 
Followup Instructions:
___